US05399689
A suspension, gassed with nitrogen, of 10.3 g of (methoxymethyl)triphenylphosphonium chloride in 50 ml of tetrahydro-furan is cooled to -5° C., treated with 4.5 g of potassium tert.-butylate, stirred at -5° C. for 10 minutes and at room temperature for 1 hour. After cooling the reaction mixture to -5° C. a solution of 5 g of [trans-4'-(4-chlorophenyl)[1,1'-bicyclohexyl]-4-trans-yl]acetaldehyde in 30 ml of tetrahydrofuran is added dropwise within 5 minutes, the mixture is stirred at -5° C. for 10 minutes and at room temperature for 1 hour, treated with 50 ml of water and the aqueous phase is extracted with 100 ml of ethyl acetate. The organic phase is washed with water, dried over sodium sulphate, filtered and concentrated. The residue is taken up in 70 ml of toluene and dissolved by heating to 70° C. and stirring for 30 minutes. The solution is cooled to room temperature, treated with 70 ml of hexane, stirred for 2 hours, filtered and washed with 40 ml of toluene/hexane (1:1 vol.). The filtrate is filtered over 100 g of silica gel and the silica gel is washed with 200 ml of hexane/toluene (1:1 vol.). The filtrate is concentrated and gives 4.6 g of trans-4-(4-chlorophenyl)-trans-4'-(3-methoxy-2-propenyl)]1,1'-bicyclohexyl].

reactant | (methoxymethyl)triphenylphosphonium chloride | 10.3 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 50 ml | O | H2O
solvent | tetrahydro-furan | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1,1'-bicyclohexyl | C1(CCCCC1)C1CCCCC1 | C12H22
